US09227978B2
tert-Butyl-4-(2-((2′,5′,6-trichloro-4-methoxy-[1,1′-biphenyl]-3-yl)amino)ethyl)piperazine-1-carboxylate
A mixture of tert-butyl 4-(2-((4-chloro-5-iodo-2-methoxyphenyl)amino)ethyl)piperazine-1-carboxylate (180 mg, 0.36 mmol), (2,5-dichlorophenyl)boronic acid (138.9 mg, 0.72 mmol), Na2CO3 (114.5 mg, 1.08 mmol), Pd(PPh3)4 (42 mg, 0.036 mmol) in 1,4-dioxane (20 mL) and water (5 mL) was stirred at 90° C. under argon for 16 h. The mixture was allowed to cool to room temperature and then concentrated in vacuo. The residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=5:1) to afford the desired product (135 mg, 73% yield) as a solid. ESI-MS m/z: 514.3[M+H]+.

reactant | tert-butyl 4-(2-((4-chloro-5-iodo-2-methoxyphenyl)amino)ethyl)piperazine-1-carboxylate | 0.36 mmol, 180 mg | ClC1=CC(=C(C=C1I)NCCN1CCN(CC1)C(=O)OC(C)(C)C)OC | C18H27ClIN3O3
reactant | (2,5-dichlorophenyl)boronic acid | 0.72 mmol, 138.9 mg | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 1.08 mmol, 114.5 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.036 mmol, 42 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl-4-(2-((2′,5′,6-trichloro-4-methoxy-[1,1′-biphenyl]-3-yl)amino)ethyl)piperazine-1-carboxylate | 135 mg, 73% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNC=1C=C(C(=CC1OC)Cl)C1=C(C=CC(=C1)Cl)Cl | C24H30Cl3N3O3
